US06642250B2
The procedure of Synthetic Example 1 was repeated using 2-chloro-6-methylnicotinic acid and 3-methylthioaniline to obtain 6-methyl-2-(3-methylthiophenylamino)nicotinaldehyde.

reactant | 2-chloro-6-methylnicotinic acid | ClC1=C(C(=O)O)C=CC(=N1)C | C7H6ClNO2
reactant | 3-methylthioaniline | CSC=1C=C(N)C=CC1 | C7H9NS
product | 6-methyl-2-(3-methylthiophenylamino)nicotinaldehyde | CC1=NC(=C(C=O)C=C1)NC1=CC(=CC=C1)SC | C14H14N2OS
